### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Localization): transport resolutions along 2-commutative squares

### PR DESCRIPTION
**Pull request by joelriou**
We transport `LocalizerMorphism.HasLeft/RightResolutions` assumptions along 2-commutative squares.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Localization/Resolution.lean [hunk 1]
```diff
@@ -304,6 +307,115 @@ lemma isIso_iff_of_hasLeftResolutions [Φ.HasLeftResolutions] {F G : D₂ ⥤ H}
...
+    B.HasRightResolutions := by
+  intro Y₂
+  obtain ⟨X₂, ⟨e⟩⟩ := Functor.EssSurj.mem_essImage (F := R.functor) Y₂
+  let ρ : T.RightResolution X₂ := Classical.arbitrary _
+  exact ⟨{
+    X₁ := L.functor.obj ρ.X₁
+    w := e.inv ≫ R.functor.map ρ.w ≫ iso.hom.app _
+    hw := (W₂'.arrow_mk_iso_iff (Arrow.isoMk e (iso.app _))).1 (R.map _ ρ.hw) }⟩
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Localization/Resolution.lean:327]: This set_option is only because of the `Functor.comp` issue (in particular making `Functor.comp` local simp here allows to remove it. But let's keep the set_option and maybe add a comment to remove it when the `Functor.comp` issue is solved.

**Review by dagurtomas — COMMENTED** [review]
Thanks!

maintainer delegate

File: Mathlib/CategoryTheory/Localization/Resolution.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Localization/Resolution.lean:327]: There are plenty of such `set_option` lines because of `Functor.comp`, so that I do not think it is worth adding a note here.

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Localization/Resolution.lean:327]: You're right, they should eventually be removed by some automated script, so a note is useless

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
